US04791055
A. 8-(2-aminoethyl)aminoadenosine-5'-monophosphate
A reaction mixture consisting of 2.2 mmol 8-bromoadenosine-5'-monophosphate, prepared according to the method described in Arch. Biochem. Biophys. 163: 561-9(1974), 66 mmol ethylenediamine and 25 ml water was heated in an oil bath at 140° for 2 hr. The cooled mixture was adjusted to pH 11.5 with sodium hydroxide and passed into a 2.5×55 cm column of Dowex 1×8 (200-400 mesh, bicarbonate form). The column was washed with 300 ml water and then with a linear gradient generated with 3 liters water and 3 liters 0.5M ammonium bicarbonate. The absorbance of the effluent at 254 nm was monitored and a major peak of absorbing material eluted between 4.6 and 5.8 liters of the gradient.

reactant | 8-bromoadenosine-5'-monophosphate | 2.2 mmol | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=NC=2C(N)=NC=NC12)Br)O)O | C10H13BrN5O7P
reactant | ethylenediamine | 66 mmol | C(CN)N | C2H8N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | bicarbonate | C([O-])(O)=O
solvent | water | 25 ml | O | H2O
product | 8-(2-aminoethyl)aminoadenosine-5'-monophosphate | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=NC=2C(N)=NC=NC12)NCCN)O)O | C12H20N7O7P
